US07148226B2
5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran
A solution of 5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran-2-ol (813 mg, 3.36 mmol), Triethylsilane (805 □L, 5.04 mmol), and 30% TFA/CH2Cl2 (15 mL), were stirred at room temperature for 1 h. The solution was then diluted with Toluene (15 mL), stripped of all solvents, and chromatographed on silica eluted with a gradient 5–25% Ethyl acetate/Hexanes. Yield 549 mg, 72%.

reactant | 5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran-2-ol | 3.36 mmol, 813 mg | BrC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C10H11BrO2
reactant | Triethylsilane | 5.04 mmol | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA CH2Cl2 | 15 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | Toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran | BrC=1C=CC2=C(C(CO2)(C)C)C1 | C10H11BrO
